US05216018
A mixture of 0.6 g of cis-3a,4,7,7a-tetrahydroisoindoline, 1.4 g of 4-bromophenethyl bromide, 1.0 g of potassium carbonate and 3 mL of dimethylformamide was stirred and heated in a 90° oil bath for 1 hour. Toluene (20 mL) and water (20 mL) were added and the aqueous layer was extracted with toluene. Addition of 10 mL of 10% hydrochloric acid to the toluene solution resulted in the formation of three layers. The two lower layers were made basic with aqueous sodium hydroxide solution. Extraction with methylene chloride gave 0.89 g of crude product which on short-path distillation gave 0.63 g of cis-2-(4-bromophenethyl)-3a,4,7,7a-tetrahydroisoindoline. 'H NMR (in CDCl3) δ7.4 (d, 2H); 7.0 (d, 2H); 5.8 (m, 2H); 3.0 (m, 2H); 2.6-2.8 (m, 4H); 2.4 (m, 2H); 2.1-2.3 (m, 4H) and 1.9 (d, 2H). The fumarate had m.p. 166°-167° after crystallization from ethanol.

reactant | cis-3a,4,7,7a-tetrahydroisoindoline | 0.6 g | C1NC[C@@H]2CC=CC[C@H]12 | C8H13N
reactant | 4-bromophenethyl bromide | 1.4 g | BrC1=CC=C(CCBr)C=C1 | C8H8Br2
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
solvent | Toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | cis-2-(4-bromophenethyl)-3a,4,7,7a-tetrahydroisoindoline | 0.63 g | BrC1=CC=C(CCN2C[C@H]3CC=CC[C@H]3C2)C=C1 | C16H20BrN
